Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-3.6839595666800022
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.2299400419
[O:1][C@@:2]([H:3])([C:4]=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[O:1][C@:2]([H:3])([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10].[O:6],7.1118407473500005
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2](=[O:3])[C:11]([C:8]([C:6](=[C:4][H:5])[H:7])([H:9])[H:10])([H:12])[H:13],1.13663758258
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:10][H:11].[H:9],2.08609535243
[H:14].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.58646192801
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[O:10])=[C:11]([H:12])[H:13],-0.102121248561
[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-3.995227276619999
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:4],7.37064360663
[H:1][C:2][O:3][C:4]#[C:5][C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.3178562456900003
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4],2.1813995307900003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.4927417072400004
[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9]([H:10])[o:11]1>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[O:11],-0.16742632464
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][H:6],4.56519870448
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-6.413495971980001
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:6]([H:7])#[C:8][O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],-0.59529389632
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8].[O:9][H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-2.5867547445400003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8]2[O:9][C@@:10]12[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10][H:11],1.09971962758
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10].[H:11]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],-5.06188366664
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],5.946206438069999
[H:1][O:2][C:3]#[C:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-1.28052712138
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],6.915925585569999
[C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12],-4.64860510036
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])[O:10][H:11],2.76649658507
[C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.27083269105
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.91473571146
[H:7].[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6]\[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.81748772935
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13],0.308064604389
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:12][H:13],3.34389314815
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12],3.81274294464
